Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left elbow injury
 
Major Surgical or Invasive Procedure:
left radial head replacement with coronoid ORIF

 
History of Present Illness:
Mrs. ___ is a ___ female who presented to Dr. ___ 
___ left elbow injury sustained in the beginning of 
___ after a fall from a chair. She has a radial head 
fracture and coronoid tip fracture and she was dislocated 
posteriorly and reduced in the emergency room. After discussion 
with Dr. ___ elected to undergo operative repair on 
___.
 
Past Medical History:
depression, migraines, obesity
 
Social History:
___
Family History:
non-contributory
 
Pertinent Results:
___ 05:45AM BLOOD WBC-16.2*# RBC-3.75* Hgb-9.7* Hct-30.7* 
MCV-82 MCH-25.8* MCHC-31.5 RDW-13.4 Plt ___
 
Brief Hospital Course:
The patient underwent left radial head replacement and ORIF left 
olecranon, performed by Dr. ___ on ___. This was 
tolerated well and she was admitted to the orthopaedic trauma 
service.

Neuro: The patient received a left upper extremity block 
perioperatively. Postoperatively, pain was initially controlled 
with dilaudid PCA. The patient's pain was poorly controlled on 
the night of POD0-1. This improved with transition to PO 
dilaudid and addition of ativan as needed. 

CV: Vital signs monitored, remained hemodynamically stable.

Pulm: There were no respiratory issues.

GI: Tolerated a regular diet postoperatively.

Heme: Received subq lovenox while an in-patient; she will switch 
to ASA 325mg upon discharge for DVT prophylaxis.

ID: Received perioperative ancef, and remained afebrile.

Activity: Patient was seen by OT, and cleared for discharge to 
home. She will continue out-patient OT.

On day of discharge, patient was afebrile with good pain 
control. She will be discharged to home. She will complete a 14 
day course of anti-coagulation, taking ASA 325mg following 
discharge. She will follow-up in ___ Trauma clinic. She will 
remain non-weight-bearing on the left upper extremity, in splint 
and sling for 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Aripiprazole 5 mg PO QPM 
3. Methylphenidate SR 18 mg PO QAM 
4. Fluoxetine 10 mg PO QAM 

 
Discharge Medications:
1. Aripiprazole 5 mg PO QPM 
2. BuPROPion (Sustained Release) 300 mg PO QAM 
3. Fluoxetine 10 mg PO QAM 
4. Methylphenidate SR 18 mg PO QAM 
5. Acetaminophen 650 mg PO Q6H:PRN pain 
do not exceed 4000mg per day 
6. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
available over the counter 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*30 Capsule Refills:*1
8. Aspirin 325 mg PO DAILY Duration: 12 Days 
Continue for 12 days after discharge 
9. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
do not drink alcohol or drive while taking 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 4 hours Disp 
#*50 Tablet Refills:*0
10. Senna 2 TAB PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left elbow terrible triad injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
 
ANTICOAGULATION:
- Please take aspirin 325mg for 12 days following discharge
 
WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
-Splint must be left on until follow up appointment unless 
otherwise instructed
-Do NOT get splint wet
 
ACTIVITY AND WEIGHT BEARING:
- left upper extremity: non-weight-bearing in splint, with sling 
for 2 weeks
Physical Therapy:
Remain NWB LUE in splint at all times until follow-up.
Treatments Frequency:
No dressing changes until your follow-up with Orthopedics.
 
Followup Instructions:
___